US07179823B1
A mixture of methyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate (610 mg), lithium hydroxide monohydrate (154 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 2 hours, and 1N hydrochloric acid (3.7 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. Colorless crystals were collected by filtration to yield 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid (583 mg, yield: 98%). This was recrystallized from ethyl acetate-hexane. Melting point: 152–153° C.

reactant | methyl 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate | 610 mg | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1)C | C29H27N3O5
reactant | lithium hydroxide monohydrate | 154 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 3.7 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid | 583 mg, yield: 98% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1)C | C28H25N3O5
